### PR TITLE
[Merged by Bors] - feat(SpecialFunctions/Log): add extended nonnegative real logarithm

### PR DESCRIPTION
**Pull request by pitmonticone**
This PR adds the `SpecialFunctions/Log/ENNRealLog.lean` file where we define `log` as an extension of the logarithm of a positive real to the extended nonnegative reals `ℝ≥0∞`. The function takes values in the extended reals `EReal`, with `log 0 = ⊥` and `log ⊤ = ⊤`.

Co-authored with @D-Thomine.

### CODE REVIEW

**Comment by pitmonticone** [comment]
Hi @sgouezel, we don't know why `continuous integration / Build (push)` check is failing because locally everything builds perfectly fine!

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 1]
```diff
@@ -0,0 +1,228 @@
...
+Copyright (c) 2024 Damien Thomine. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Damien Thomine, Pietro Monticone
+-/
+import Mathlib.Analysis.SpecialFunctions.Pow.NNReal
+import Mathlib.Topology.Instances.EReal
+
+/-!
+# Extended nonnegative real logarithm
+We define `log` as an extension of the logarithm of a positive real
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:11]:
```suggestion

We define `log` as an extension of the logarithm of a positive real
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 2]
```diff
@@ -0,0 +1,228 @@
...
+to the extended nonnegative reals `ℝ≥0∞`. The function takes values
+in the extended reals `EReal`, with `log 0 = ⊥` and `log ⊤ = ⊤`.
+
+## Main definitions
+- `log`: The extension of the real logarithm to `ℝ≥0∞`.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:16]: Can you mention the namespaces in the references to statements in docstrings? for instance, here it should be
```suggestion
- `ENNReal.log`: The extension of the real logarithm to `ℝ≥0∞`.
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 3]
```diff
@@ -0,0 +1,228 @@
...
+- `log_OrderIso`, `log_equiv`: `log` seen respectively
+as an order isomorphism and an homeomorphism.
+
+## Main Results
+- `log_strictMono`: `log` is increasing;
+- `log_injective`, `log_surjective`, `log_bijective`: `log` is
+  injective, surjective, and bijective;
+- `log_mul_add`, `log_pow`, `log_pow`: `log` satisfy
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:24]: I guess the last one is `log_rpow`?

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 4]
```diff
@@ -0,0 +1,228 @@
...
+the identities `log (x * y) = log x + log y` and `log (x * y) = y * log x`
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:25]:
```suggestion
the identities `log (x * y) = log x + log y` and `log (x ^ y) = y * log x`
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 5]
```diff
@@ -0,0 +1,228 @@
...
+
+/-! ### Definition -/
+section Definition
+
+/--
+The logarithm function defined on the extended nonnegative reals `ℝ≥0∞`
+to the extended reals `EReal`. Coincides with the usual logarithm function
+and with `Real.log` on positive reals, and takes values `log 0 = ⊥` and `log ⊤ = ⊤`.
+Conventions about multiplication in `ℝ≥0∞` and addition in `EReal` make the identity
+`log (x * y) = log x + log y` unconditional. --/
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:41]:
```suggestion
`log (x * y) = log x + log y` unconditional.
-/
```
end docstrings with one single hyphen, not two. Also, if you started the docstring with hyphens on their own line, the same should apply to the end of the docstring.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 6]
```diff
@@ -0,0 +1,228 @@
...
+
+theorem log_pos_real {x : ℝ≥0∞} (h : x ≠ 0) (h' : x ≠ ⊤) :
+    log x = Real.log (ENNReal.toReal x) := by simp [log, h, h']
+
+theorem log_pos_real' {x : ℝ≥0∞} (h : 0 < x.toReal) :
+    log x = Real.log (ENNReal.toReal x) := by
+  simp [log, Ne.symm (ne_of_lt (ENNReal.toReal_pos_iff.1 h).1),
+    ne_of_lt (ENNReal.toReal_pos_iff.1 h).2]
+
+theorem log_of_nNReal {x : NNReal} (h : x ≠ 0) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:64]:
```suggestion
theorem log_of_nnreal {x : NNReal} (h : x ≠ 0) :
```
Also, could you use `ℝ≥0` for `NNReal` everywhere (type with `\nnr...`).

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 7]
```diff
@@ -0,0 +1,228 @@
...
+    log (ENNReal.ofReal x) = Real.log x := by simp [log, h]
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:65]: This statement is weird, because you are going through the map to reals and then to ennreals. It would be more natural to formulate it through the coercion from nnreal to ennreal (and then you could mark it as simp).

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 8]
```diff
@@ -0,0 +1,228 @@
...
+      norm_cast
+      exact ENNReal.toReal_rpow x y ▸ Real.log_rpow x_real y
+
+end Morphism
+
+/-! ### Topological properties -/
+
+section Continuity
+
+/-- `log` as an homeomorphism. --/
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:220]:
```suggestion
/-- `log` as a homeomorphism. -/
```
The h at the beginning of "homeomorphism" is pronounced, so it starts with a consonant.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 9]
```diff
@@ -0,0 +1,228 @@
...
+noncomputable def log_Homeomorph : ℝ≥0∞ ≃ₜ EReal := OrderIso.toHomeomorph log_OrderIso
+
+@[continuity, fun_prop]
+theorem log_Continuous : Continuous log := Homeomorph.continuous log_Homeomorph
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:224]:
```suggestion
theorem log_continuous : Continuous log := Homeomorph.continuous log_Homeomorph
```

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 10]
```diff
@@ -0,0 +1,228 @@
...
+  use ENNReal.ofReal (Real.exp y.toReal)
+  have exp_y_pos := not_le_of_lt (Real.exp_pos y.toReal)
+  simp only [log, ofReal_eq_zero, exp_y_pos, ↓reduceIte, ofReal_ne_top,
+    ENNReal.toReal_ofReal (le_of_lt (Real.exp_pos y.toReal)), Real.log_exp y.toReal]
+  exact EReal.coe_toReal (ne_of_lt y_ntop) (Ne.symm (ne_of_lt y_nbot))
+
+theorem log_bijective : Function.Bijective log := ⟨log_injective, log_surjective⟩
+
+/-- `log` as an order isomorphism. --/
+noncomputable def log_OrderIso : ℝ≥0∞ ≃o EReal :=
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:112]:
```suggestion
noncomputable def log_orderIso : ℝ≥0∞ ≃o EReal :=
```
Also, can you add a simp lemma saying that `log_orderIso x = log x`?

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean [hunk 11]
```diff
@@ -0,0 +1,228 @@
+/-
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean:1]: The file should just be named `ENNReal`, because we're already in the `Log` subdirectory.

**Review by sgouezel — COMMENTED** [review]
Are you planning to also add `exp` in the other direction? (I'm asking because the order iso version and the homeomorphism version would love to have a simp lemma saying that, when you apply their symm, it coincides with exp). If yes in a near future, then everything is perfect. If not, can you add a todo about this at the end of the file-level comment?

**Review by dupuisf — COMMENTED** [review]
I just have a few comments, but globally it looks good! I think it would be good to also add lemmas about `(ENNReal.log x).toReal`, my guess is that it would come up in practice quite a bit.

**Comment by dupuisf** [comment]
(Sorry about some of the double comments, I was reviewing at the same time as Sébastien...)

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean (hunk 3 above)
Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean]: Yes, sorry.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean (hunk 4 above)
Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean]: Done.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean (hunk 5 above)
Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean]: Done. Thanks.

**Comment by pitmonticone** [comment]
> Are you planning to also add `exp` in the other direction? (I'm asking because the order iso version and the homeomorphism version would love to have a simp lemma saying that, when you apply their symm, it coincides with exp). If yes in a near future, then everything is perfect. If not, can you add a todo about this at the end of the file-level comment?

No, unfortunately I won't have enough time too soon.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean (hunk 7 above)
Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNRealLog.lean]: Done. Thanks.

**Comment by pitmonticone** [comment]
Ok, I should have satisfied all the review requests. 

Thank you very much @sgouezel and @dupuisf for your quick and insightful review!

File: Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean [hunk 12]
```diff
@@ -0,0 +1,231 @@
...
+theorem log_pos_real {x : ℝ≥0∞} (h : x ≠ 0) (h' : x ≠ ⊤) :
+    log x = Real.log (ENNReal.toReal x) := by simp [log, h, h']
+
+theorem log_pos_real' {x : ℝ≥0∞} (h : 0 < x.toReal) :
+    log x = Real.log (ENNReal.toReal x) := by
+  simp [log, Ne.symm (ne_of_lt (ENNReal.toReal_pos_iff.1 h).1),
+    ne_of_lt (ENNReal.toReal_pos_iff.1 h).2]
+
+theorem log_of_nnreal {x : NNReal} (h : x ≠ 0) :
+    log (x : ENNReal) = Real.log x := by simp [log, h]
```
Comment (dupuisf) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean:68]:
```suggestion
theorem log_of_nnreal {x : ℝ≥0} (h : x ≠ 0) :
    log (x : ℝ≥0∞) = Real.log x := by simp [log, h]
```

Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean]: Hi @dupuisf, I've directly pushed your suggested commit but it seems to throw an error.

Unfortunately I am traveling at the moment so I can't access my computer.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean [hunk 13]
```diff
@@ -0,0 +1,231 @@
...
+  simp only [log, ofReal_eq_zero, exp_y_pos, ↓reduceIte, ofReal_ne_top,
+    ENNReal.toReal_ofReal (le_of_lt (Real.exp_pos y.toReal)), Real.log_exp y.toReal]
+  exact EReal.coe_toReal (ne_of_lt y_ntop) (Ne.symm (ne_of_lt y_nbot))
+
+theorem log_bijective : Function.Bijective log := ⟨log_injective, log_surjective⟩
+
+/-- `log` as an order isomorphism. -/
+noncomputable def log_orderIso : ℝ≥0∞ ≃o EReal :=
+  StrictMono.orderIsoOfSurjective log log_strictMono log_surjective
+
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean:117]: Could you add a simp lemma saying that `log_orderIso x = log x`?

File: Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean [hunk 14]
```diff
@@ -0,0 +1,231 @@
...
+      exact ENNReal.toReal_rpow x y ▸ Real.log_rpow x_real y
+
+end Morphism
+
+/-! ### Topological properties -/
+
+section Continuity
+
+/-- `log` as a homeomorphism. -/
+noncomputable def log_Homeomorph : ℝ≥0∞ ≃ₜ EReal := OrderIso.toHomeomorph log_orderIso
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean:224]:
```suggestion
noncomputable def log_homeomorph : ℝ≥0∞ ≃ₜ EReal := OrderIso.toHomeomorph log_orderIso
```
Also, could you add a simp lemma saying that `log_homeomorph x = log x`?

File: Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean (hunk 12 above)
Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean]: I reverted.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean (hunk 13 above)
Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean:117]: Done

File: Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean (hunk 14 above)
Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean:224]: Done.

**Comment by pitmonticone** [comment]
I should have addressed all the review requests. 

Thank you very much @sgouezel and @dupuisf for your reviews!

File: Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean (hunk 12 above)
Comment (sgouezel) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean:68]: The version by Frédéric is definitely better. You should use it, and open whatever is needed to make the notation work.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean [hunk 15]
```diff
@@ -0,0 +1,231 @@
...
+## Main Results
+- `log_strictMono`: `log` is increasing;
+- `ENNReal.log_injective`, `ENNReal.log_surjective`, `ENNReal.log_bijective`: `log` is
+  injective, surjective, and bijective;
+- `ENNReal.log_mul_add`, `ENNReal.log_pow`, `ENNReal.log_rpow`: `log` satisfy
+the identities `log (x * y) = log x + log y` and `log (x ^ y) = y * log x`
+(with either `y ∈ ℕ` or `y ∈ ℝ`).
+
+## TODO
+- Define `exp` on `ℝ≥0∞` and prove its basic properties.
```
[the remark this answers is not in the document]
Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean]: Done.

File: Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean (hunk 12 above)
Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean:68]: Ok, I’m going to do it as soon as I can.

Comment (dupuisf) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean:68]: Right, you need to put `open scoped NNReal` somewhere for this notation to work.

Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean:68]: Ops, you're right. I'm going to add it later today. 

Thanks.

Comment (pitmonticone) [reply Mathlib/Analysis/SpecialFunctions/Log/ENNReal.lean]: Done.

**Comment by pitmonticone** [comment]
Now I should have really addressed all the review requests 😅. 

Thank you very much @sgouezel and @dupuisf for your reviews!

**Comment by sgouezel** [comment]
bors r+
Thanks!
